US08389509B2
To a solution of 1-(pyridin-2-yl)-5-(trifluoromethyl)-1H-pyrazole-4-carboxylic acid (2.57 g, 9.99 mmol) in DMF (30 mL) was added EDC (2.395 g, 12.49 mmol), HOBt (1.913 g, 12.49 mmol) and Hunig's Base (5.24 mL, 30.0 mmol). The reaction was stirred for 40 min. at room temperature, then N-hydroxy-4-(hydroxymethyl)benzimidamide, Int.2, (2.076 g, 12.49 mmol) was added. The reaction mixture was stirred at room temperature for 7 h, then additional EDC (2.395 g, 12.49 mmol), HOBt (1.913 g, 12.49 mmol) and Hunig's Base (5.24 mL, 30.0 mmol) were added. The reaction was heated to 60° C. for 2 h, then at 110° C. for 10 min. 1N aq. HCl was added to adjust the pH to 1, then 30 mL of water was added. The resulting precipitated product was collected by filtration and washed with water to afford (4-(5-(1-(pyridin-2-yl)-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)methanol (2.28 g, 5.83 mmol, 58%) as a light yellow solid.

reactant | 1-(pyridin-2-yl)-5-(trifluoromethyl)-1H-pyrazole-4-carboxylic acid | 9.99 mmol, 2.57 g | N1=C(C=CC=C1)N1N=CC(=C1C(F)(F)F)C(=O)O | C10H6F3N3O2
reactant | EDC | 12.49 mmol, 2.395 g
reactant | HOBt | 12.49 mmol, 1.913 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Hunig's Base | 30.0 mmol, 5.24 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-hydroxy-4-(hydroxymethyl)benzimidamide | ONC(C1=CC=C(C=C1)CO)=N | C8H10N2O2
reactant | EDC | 12.49 mmol, 2.395 g
reactant | HOBt | 12.49 mmol, 1.913 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Hunig's Base | 30.0 mmol, 5.24 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | (4-(5-(1-(pyridin-2-yl)-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)methanol | 5.83 mmol, 2.28 g, 58% | N1=C(C=CC=C1)N1N=CC(=C1C(F)(F)F)C1=NC(=NO1)C1=CC=C(C=C1)CO | C18H12F3N5O2
